US08871967B2
Cyclopropylmethyl 2-methylhexanoate
Prepared from 2-methylhexanoic acid and cyclopropanemethanol according to the ester preparation method A described above.

reactant | 2-methylhexanoic acid | CC(C(=O)O)CCCC | C7H14O2
reactant | cyclopropanemethanol | C1(CC1)CO | C4H8O
product | Cyclopropylmethyl 2-methylhexanoate | CC(C(=O)OCC1CC1)CCCC | C11H20O2
